datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:11](=[C:12]([H:14])[H:15])[H:13]>>[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])[H:9])([H:5])([H:6])[H:7].[H:8][C:11](=[C:12]([H:14])[H:15])[H:13],43.5136
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14](=[C:15]([C:16]([H:22])([H:23])[H:24])[H:21])[H:20])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:15]([C:14]([C:13](=[C:12]([H:17])[H:18])[H:19])[H:20])([C:16]([H:22])([H:23])[H:24])[H:21])[H:5],27.5307
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6](=[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1][C:2]#[C:3][H:5])([H:4])[C:8]([C:7](=[C:6]([H:10])[H:11])[H:12])([C:9]([H:14])([H:15])[H:16])[H:13],39.497
[C:0](=[C:1]([C:2](=[C:3]([H:13])[H:14])[C:4]([C:5]([C:6]([C:7]([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1[C:3]([H:13])([H:14])[C:7]([C:8]([H:21])([H:22])[H:23])([C:9]([H:24])([H:25])[H:26])[C:6]([H:19])([H:20])[C:5]([H:17])([H:18])[C:4]1([H:15])[H:16])[H:12])([H:10])[H:11],27.7399
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([S:6][H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([S:6][H:19])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:10])[H:17])([H:7])([H:8])[H:9],29.037
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[H:10][H:11]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:6])[H:11])([H:3])([H:4])[H:5].[H:10],41.4216
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[C:14](=[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[H:21])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[C:16]([C:15](=[C:14]([H:18])[H:19])[H:20])([C:17]([H:22])([H:23])[H:24])[H:21])[H:6],57.1116
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[C:5]([C:6]([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])([H:16])[H:17])[H:12])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1([H:12])[C:3]([C:4]([H:13])([H:14])[H:15])[C:5]([H:16])([H:17])[C:6]1([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])[H:11])([H:9])[H:10],139.453
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[H:15])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[C:10]([C:9](=[C:8]([H:12])[H:13])[H:14])([C:11]([H:16])([H:17])[H:18])[H:15])[H:5])[H:4],35.2293
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[S:14]([S:15][H:17])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[H:16])[H:7])([H:5])[H:6].[S:14][S:15][H:17],0.8368
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([S:3][H:11])[H:7])([H:4])([H:5])[H:6].[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[H:18])([H:15])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[S:3][H:11])([H:4])([H:5])[H:6].[H:7][C:13]([C:12]([H:15])([H:16])[H:17])([C:14]([H:19])([H:20])[H:21])[H:18],11.7152
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3]([O:4][O:5][H:14])([H:12])[H:13])([H:6])([H:7])[H:8].[O:15][O:16]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([O:4][O:5][H:14])([H:12])[H:13])[O:15][O:16])([H:6])([H:7])[H:8],-2.7413568
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17][H:18]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7].[H:5][O:17][H:18],3.6333856
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[O:26]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:15][O:26],7.397312
[C:0](#[C:1][C:2](=[C:3]=[C:4]([H:7])[H:8])[H:6])[H:5].[C:9](=[C:10][C:11]([H:14])([H:15])[H:16])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]=[C:4]([H:7])[H:8])([H:6])[C:10](=[C:9]([H:12])[H:13])[C:11]([H:14])([H:15])[H:16])[H:5],12.6357
[C:0](=[N:1][H:4])([H:2])[H:3].[O:5][H:6]>>[C:0](=[N:1])([H:2])[H:3].[H:4][O:5][H:6],-0.37656
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7](=[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])[C:11](=[C:12]([H:20])[H:21])[H:19])[H:15])([H:13])[H:14]>>[C:0]([C:1]=[C:2]([H:5])[H:6])([H:3])([H:4])[C:9]([C:8](=[C:7]([H:13])[H:14])[H:15])([C:10]([H:16])([H:17])[H:18])[C:11](=[C:12]([H:20])[H:21])[H:19],70.5004
[C:0]([N:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[O:10]>>[C:0]([N:1][C:2]([H:7])([H:8])[H:9])([H:3])([H:4])[H:5].[H:6][O:10],2.326304
[C:0]([N:1]=[O:2])([H:3])([H:4])[H:5].[O:6][H:7]>>[C:0]([N:1]=[O:2])([H:4])[H:5].[H:3][O:6][H:7],-4.987328
